US06420426B1
A stirring solution of 6-fluoro-4-methoxy-biphenyl-3-carboxylic acid 3-nitro-benzylamide (2.18 g, 5.7 mmol) in dichloromethane (150 mL, 0.4 M) at −78° C. was treated with BBr3 (27 mL, 27 mmol). The mixture was allowed to stir for 45 min at −78° C. and was then quenched with 100 mL of methanol. The mixture was allowed to warm to room temperature, concentrated, and filtered through a plug of silica gel using 50% ethyl acetate as the eluant. The filtrate was concentrated to provide 6-fluoro-4-hydroxy-biphenyl-3-carboxylic acid 3-nitro-benzylamide (2.1 g, 100%) as a yellow powder: Rf0.68 (50% ethyl acetate in heptane); 1H NMR (CDCl3, 300 MHz) δ 12.29 (bd s, 1H), 8.14-8.09 (m, 2H), 7.65 (d, J=7.2 Hz, 1H), 7.48 (t, J=8.0 Hz, 1H), 7.38-7.29 (m, 5H), 6.74 (d, J=11.4 Hz, 1H), 6.60 (bd s, 1H), 4.68 (d, J=6.0 Hz, 2H).

reactant | 6-fluoro-4-methoxy-biphenyl-3-carboxylic acid 3-nitro-benzylamide | 5.7 mmol, 2.18 g | [N+](=O)([O-])C=1C=C(CNC(=O)C=2C=C(C(=CC2OC)F)C2=CC=CC=C2)C=CC1 | C21H17FN2O4
reactant | BBr3 | 27 mmol, 27 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 0.4 M, 150 mL | ClCCl | CH2Cl2
product | 6-fluoro-4-hydroxy-biphenyl-3-carboxylic acid 3-nitro-benzylamide | 2.1 g, 100% | [N+](=O)([O-])C=1C=C(CNC(=O)C=2C=C(C(=CC2O)F)C2=CC=CC=C2)C=CC1 | C20H15FN2O4
